US04303792
A solution was made by combining while cooling in an ice bath, 2.33 g (0.03 mole) of a 40% aqueous solution of methylamine and 100 ml of methylene chloride. A second solution containing 3.08 g (0.015 mole) dichloroacetoxyacetyl chloride dissolved in 5 ml methylene chloride was slowly added to the first solution. The mixture was stirred in the ice bath for one half hour. After remaining at room temperature for one hour, it was refluxed for ten minutes and cooled again. The reaction product was water washed twice and dried over magnesium sulfate. It was decolorized with a decolorizing agent and charcoal. The solvent was removed by reduced pressure evaporation and oil pumped. A semi-solid consisting of 1.5 g (50% yield) of N-methyl dichloroacetoxyacetamide was obtained. The structure was confirmed by infrared spectraphotometric analysis (IR).

reactant | methylamine | CN | CH5N
reactant | dichloroacetoxyacetyl chloride | 0.015 mole, 3.08 g | ClC(C(=O)OCC(=O)Cl)Cl | C4H3Cl3O3
reactant | water | O | H2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-methyl dichloroacetoxyacetamide | 1.5 g, 50% yield | CNC(COC(C(Cl)Cl)=O)=O | C5H7Cl2NO3
